US07521427B2
Cbz-Ala-Phe-VS-Ph was prepared from Cbz-Ala-OH and Phe-VS-Ph.HCl using standard mixed anhydride coupling method, yield 88%. 1H-NMR (CDCl3) δ 1.25 (d, 3H, Ala-CH3), 2.91 (dq, 2H, CH2-Phe), 4.10 (m, 1H, α-H), 4.80-4.90 (m, 1H, α-H), 5.10 (s, 2H, Cbz), 6.34 (b, 1H, NH), 6.39 (d, 1H, CH═), 6.90-6.98 (dd, 1H, CH═), 7.10-7.39 (m, 10H, 2×Ph), 7.55 (t, 2H, SO2-Ph), 7.65 (t, 1H, SO2-Ph), 7.91 (d, 2H, SO2-Ph). 13C NMR (400 MHz, CDCl3) δ 172.1, 156.3, 144.4, 140.8, 135.7, 134.2, 133.6, 131.2, 129.5, 129.4×3, 129.3, 128.8×2, 128.7, 128.6, 128.4, 128.3, 127.8, 127.3, 126.9, 67.6, 51.7, 51.6, 40.2, 19.4.

reactant | Cbz-Ala-OH | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | Phenyl-(3S)-3-amino-4-phenylbut-1-enyl Sulfone Hydrochloride | Cl.C1(=CC=CC=C1)C([C@@H](C=CS(=O)(=O)C=C[C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)N)N)C1=CC=CC=C1
product | Phenyl-(3S)-3-(N-carbobenzyloxyalanyl)amino-4-phenylbut-1-enyl Sulfone | yield 88% | C1(=CC=CC=C1)C([C@@H](C=CS(=O)(=O)C=C[C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C54H54N4O8S
